US08471005B2
Analogous to Example 1491c, 7-[3-(1,1-Dioxido-1,2-thiazolidin-2-yl)phenyl]-2-(methylsulfinyl)pyrrolo[2,1-f][1,2,4]triazine (90.0 mg, 0.239 mmol) and 3-(4-Methylpiperazin-1-yl)aniline (91.4 mg, 0.478 mmol) were reacted to afford 7-[3-(1,1-Dioxido-1,2-thiazolidin-2-yl)phenyl]-N-[3-(4-methylpiperazin-1-yl)phenyl]pyrrolo[2,1-f][1,2,4]triazin-2-amine (25 mg, 18%). LCMS (HPLC): 0.84 min, m/z=504 (M+H); 1H-NMR (DMSO-d6): 9.29 (s, 1H), 8.99 (s, 1H), 7.86 (d, 1H, J=7.8 Hz), 7.75 (s, 1H), 7.49 (m, 1H), 7.32 (m, 2H), 7.18 (d, 1H, J=8.0 Hz), 7.11 (m, 2H), 6.96 (d, 1H, J=4.7 Hz), 6.56 (d, 1H, J=7.8 Hz), 3.73 (t, 2H, J=6.4 Hz), 3.52 (t, 2H, J=7.4 Hz), 2.99 (m, 4H), 2.37 (m, 6H), 2.20 (s, 3H).

reactant | 7-[3-(1,1-Dioxido-1,2-thiazolidin-2-yl)phenyl]-2-(methylsulfinyl)pyrrolo[2,1-f][1,2,4]triazine | 0.239 mmol, 90.0 mg | O=S1(N(CCC1)C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)S(=O)C)=O | C16H16N4O3S2
reactant | 3-(4-Methylpiperazin-1-yl)aniline | 0.478 mmol, 91.4 mg | CN1CCN(CC1)C=1C=C(N)C=CC1 | C11H17N3
product | 7-[3-(1,1-Dioxido-1,2-thiazolidin-2-yl)phenyl]-N-[3-(4-methylpiperazin-1-yl)phenyl]pyrrolo[2,1-f][1,2,4]triazin-2-amine | 25 mg, 18% | O=S1(N(CCC1)C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)NC2=CC(=CC=C2)N2CCN(CC2)C)=O | C26H29N7O2S
